US05843941
rac-3-Bromo-7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1-benzazepin-2-one (74)
A suspension of 7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1-benzazepin-2-one (0.378 g, 1.31 mmole) in 45 mL of dry carbon tetrachloride was heated to reflux, which generated a clear solution. Bromine (0.15 mL, 2.91 mmole) was added in two portions, 20 minutes apart, and the solution was heated at reflux for a total of 1 hour under a sunlamp. After cooling the reaction solution was washed sequentially with 5% aqueous sodium thiosulfate, dilute aqueous sodium bicarbonate, and 5% aqueous sodium thiosulfate. The organic phase was dried (sodium sulfate) and concentrated. The crude material was purified using a 2 mm chromatotron plate, eluting with 1:1 ethyl acetate-hexane, yielding 0.185 g (72%) of the title compund. IR(KBr): 3386, 1731, 1682 cm-1. Mass spec. (EI, m/z 367).

reactant | 7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1-benzazepin-2-one | 1.31 mmole, 0.378 g | ClC=1C=CC2=C(C(=CCC(N2)=O)C2=C(C=CC=C2)F)C1 | C16H11ClFNO
reactant | Bromine | 2.91 mmole, 0.15 mL | BrBr | Br2
solvent | carbon tetrachloride | 45 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | rac-3-Bromo-7-chloro-5-(2-fluorophenyl)-1,3-dihydro-2H-1-benzazepin-2-one | BrC1C(NC2=C(C(=C1)C1=C(C=CC=C1)F)C=C(C=C2)Cl)=O | C16H10BrClFNO
